US07595327B2
To a solution of 4-[4-(2-methyl-quinolin-4-ylmethoxy)-benzenesulfonylamino]-tetrahydro-furan-3-carboxylic acid methyl ester (0.9 g, 1.97 mmol) in 1,4-dioxane (4 mL) was added concentrated HCl (4 mL). The reaction was heated to 60° C. for 19 h. The solvent was removed in vacuo to provide 4-[4-(2-methyl-quinolin-4-ylmethoxy)-benzenesulfonylamino]-tetrahydro-furan-3-carboxylic acid as a crude solid (0.6 g, 69%). MS: 443 (M+H)+

reactant | 4-[4-(2-methyl-quinolin-4-ylmethoxy)-benzenesulfonylamino]-tetrahydro-furan-3-carboxylic acid methyl ester | 1.97 mmol, 0.9 g | COC(=O)C1COCC1NS(=O)(=O)C1=CC=C(C=C1)OCC1=CC(=NC2=CC=CC=C12)C | C23H24N2O6S
reactant | HCl | 4 mL | Cl | ClH
solvent | 1,4-dioxane | 4 mL | O1CCOCC1 | C4H8O2
product | 4-[4-(2-methyl-quinolin-4-ylmethoxy)-benzenesulfonylamino]-tetrahydro-furan-3-carboxylic acid | CC1=NC2=CC=CC=C2C(=C1)COC1=CC=C(C=C1)S(=O)(=O)NC1C(COC1)C(=O)O | C22H22N2O6S
